US04071516
A mixture of 11.25 g. of 1-isopropyl-7-methyl-4-(m-methoxyphenyl)-2(1H)-quinazolinone, 5.25 g. of sodium carbonate and 750 ml. of water is refluxed with 7.5 g. of potassium permanganate being added every half hour until a total of 52.5 g. of potassium permanganate is added. After refluxing for an additional 45 minutes, the reaction mixture is cooled, acidified on the slow addition of 263 ml. of 6N. hydrochloric acid and then treated with sodium sulfate until the manganese dioxide is eliminated. The resulting mixture is cooled and filtered to recover the precipitate which is washed with water, dried under vacuum (40° C.) and crystallized from hot glacial acidic acid to obtain 7-carboxy-1--isopropyl-4-(m-methoxyphenyl)-2(1H)-quinazolinone.

reactant | 1-isopropyl-7-methyl-4-(m-methoxyphenyl)-2(1H)-quinazolinone | C(C)(C)N1C(N=C(C2=CC=C(C=C12)C)C1=CC(=CC=C1)OC)=O | C19H20N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | water | O | H2O
product | 7-carboxy-1--isopropyl-4-(m-methoxyphenyl)-2(1H)-quinazolinone | C(=O)(O)C1=CC=C2C(=NC(N(C2=C1)C(C)C)=O)C1=CC(=CC=C1)OC | C19H18N2O4
